US04072710
Following Example 10 and replacing the salicylic acid with mandelic acid (1 cmole; 1.521 g) the result is a solution of the corresponding acid chloride which, when treated with ammonia gives mandelamide.

reactant | mandelic acid | 1 cmole, 1.521 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | ammonia | N | H3N
product | mandelamide | C(C(O)C1=CC=CC=C1)(=O)N | C8H9NO2
